data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_547582_1,[C:1]1([H:12])([H:13])/[C:4](=[N:8]/[H:10])[N:3]([O:7][H:9])[C:6]([H:11])=[C:5]1[C:2]([H:14])([H:15])[H:16]>>[C:1]1([H:12])([H:13])/[C:4](=[N:8]/[H:10])[C:5]1([C:2]([H:14])([H:15])[H:16])/[C:6](=[N:3]/[O:7][H:9])[H:11],62.87675500001527
MR_161455_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([N:4](/[C:5]([N:6]([H:12])[H:13])=[N:8]/[O:7][H:9])[H:10])[H:11]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([N:8](/[C:5](=[N:4]/[H:10])[N:6]([H:12])[H:13])[O:7][H:9])[H:11],67.2692550000184
MR_332499_1,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([N:4]([H:10])[H:11])[H:9])([C:5](=[C:6]([H:16])[H:17])[H:12])[O:7][H:8]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:5](/[C:6]([N:3]([N:4]([H:10])[H:11])[H:9])([H:16])[H:17])[H:12])[O:7][H:8],62.20783999995632
MR_430585_0,[C:1]([C:2]([N:5]=[C:3]([H:10])[H:11])([O:6][H:7])[H:9])(=[O:4])[H:8]>>[C:1]1([O:4][H:7])([H:8])[C:2]([N:5]=[C:3]([H:10])[H:11])([H:9])[O:6]1,52.05112500002471
MR_137136_0,[C:1](/[C:3](=[N:5]\[O:4][N:2]([H:6])[H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([C@@:3]1([H:8])[O:4][N:5]1[N:2]([H:6])[H:7])([H:9])([H:10])[H:11],62.56237750002427
MR_75814_0,[C:1]1([C:3](/[C:5](=[N:7]/[N:4]([H:9])[H:10])[H:15])([H:13])[H:14])([H:8])[C:2]([H:11])([H:12])[O:6]1>>[C:1]1([C:3](/[C:5](=[N:7]/[N:4]([H:9])[H:10])[H:15])([H:13])[H:14])([H:8])[C:2]([H:11])([H:12])[O:6]1,65.04037500001004
MR_594870_0,[C:1](/[C:4]([C:2]([H:14])([H:15])[H:16])=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])([N:5]([H:11])[H:12])([O:7][O:8][H:9])[H:10]>>[C:1](=[C:4](/[C:2]([H:14])([H:15])[H:16])[C:6]([C:3]([H:17])([H:18])[H:19])([O:7][O:8][H:9])[H:13])(\[N:5]([H:11])[H:12])[H:10],42.84256249998208
MR_92163_1,[C:1](/[C:4](=[C:5]([C:3](=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:12])/[O:7][H:9])\[H:11])[O:8][H:10])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([O:8][H:10])[C:5]([H:11])=[C:3]([O:7][H:9])[C:6]1([C:2]([H:16])([H:17])[H:18])[H:12])([H:13])([H:14])[H:15],45.71776749999941
MR_634106_0,[C:1]([C:4]12[C:2]([O:6][H:9])([O:5]1)[N:8]=[C:3]2[O:7][H:10])([H:11])([H:12])[H:13]>>[C:1]([C@:4]12[C@:2]([O:6][H:9])([O:5]1)[N:8]=[C:3]2[O:7][H:10])([H:11])([H:12])[H:13],19.56294000001023
MR_380663_1,[C:1]([C:2]([H:16])([H:17])[H:18])([C:3]([N:6]([H:12])[H:13])=[O:8])([C:4]([N:7]([H:14])[H:15])=[O:9])[N:5]([H:10])[H:11]>>[C:1](\[C:2]([H:16])([H:17])[H:18])(=[C:3](/[N:6]([H:12])[H:13])[O:8][C:4]([N:7]([H:14])[H:15])=[O:9])[N:5]([H:10])[H:11],69.70834750003107
MR_415793_0,[C@:1]1([O:4][H:6])([H:7])[C:2]([H:8])([H:9])[N:5][C:3]1[H:10]>>[C:1](=[C:3](/[N:5]=[C:2]([H:8])[H:9])[H:10])(\[O:4][H:6])[H:7],23.742090000016987
MR_136083_0,[C:1]([N:3]([C:2]([H:14])([H:15])[H:16])[H:10])(/[C:4](=[C:5](\[O:7][H:9])[H:13])[O:6][H:8])([H:11])[H:12]>>[C:1](=[C:4]([C:5]([N:3]([C:2]([H:14])([H:15])[H:16])[H:10])([O:7][H:9])[H:13])[O:6][H:8])([H:11])[H:12],73.19850250002958
MR_574534_0,[N:1]([N:2]([H:7])[H:8])(/[C:3](=[N:5]/[H:9])[H:11])/[C:4](=[N:6]\[H:10])[H:12]>>[N:1](\[N:2]([H:7])[H:8])=[C:3](/[N:5](/[C:4](=[N:6]\[H:10])[H:12])[H:9])[H:11],48.68207750000579
MR_124725_2,[C:1]1([O:7][H:9])([H:10])[C:5]([C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[H:11])([N:6]([H:12])[H:13])[N:8]1[H:14]>>[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[H:11])(/[C:5]([N:6]([H:12])[H:13])=[N:8]\[H:14])([O:7][H:9])[H:10],69.8526724999877
MR_366554_1,[C:1]([C@:6]1([H:12])[C@:3]2([N:4]([H:9])[H:10])[N:2]([H:8])[C@:5]2([H:11])[C:7]1([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1](/[C:6](=[C:3](\[N:2]([C:5](=[C:7]([H:16])[H:17])[H:11])[H:8])[N:4]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15],31.65737500000759
MR_11903_1,[C:1](/[C:5]([N:4](/[C:6](=[C:8](/[C:3]([H:19])([H:20])[H:21])[H:12])[H:10])[H:9])=[C:7](/[C:2]([H:16])([H:17])[H:18])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:5]1([C:7](=[C:2]([H:17])[H:18])[H:11])[N:4]([H:9])[C:6]1([C:8]([C:3]([H:19])([H:20])[H:21])([H:12])[H:16])[H:10])([H:13])([H:14])[H:15],53.519475000027086
MR_197954_0,[N:1]([C:2](=[C:3]([N:5]([H:12])[H:13])[N:6]([H:14])[H:15])[N:4]([H:10])[H:11])([O:7][H:8])[H:9]>>[N:1](=[C:2](\[C:3]([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[H:9])[N:4]([H:10])[H:11])\[O:7][H:8],56.331302499990414
MR_1778_1,[C:1](/[C:2](=[C:3](\[O:6][C:4](=[C:5]([H:14])[H:15])[H:10])[H:9])[O:7][H:8])([H:11])([H:12])[H:13]>>[C:1]([C@@:2]([C:3](=[O:6])[H:9])([C:4](=[C:5]([H:14])[H:15])[H:10])[O:7][H:8])([H:11])([H:12])[H:13],60.28267000000156
MR_503206_0,[C:1]([C:4]([O:6]/[C:3](=[C:5](\[C:2]([H:15])([H:16])[H:17])[O:8][H:11])[O:7][H:10])=[O:9])([H:12])([H:13])[H:14]>>[C:1]([C:4]([C:5]([C:2]([H:15])([H:16])[H:17])([C:3](=[O:6])[O:7][H:10])[O:8][H:11])=[O:9])([H:12])([H:13])[H:14],41.71306249998025
MR_15919_0,[C:1](/[N:7]=[C:4](/[N:3]([C:5]([C:2]([H:14])([H:15])[H:16])=[O:8])[H:10])[O:6][H:9])([H:11])([H:12])[H:13]>>[C:1]([N:7](/[C:4](=[N:3]/[H:10])[O:6][H:9])[C:5]([C:2]([H:14])([H:15])[H:16])=[O:8])([H:11])([H:12])[H:13],46.19843250003427
